US07501438B2
Preparation of 3-propyl-imidazo[1,5-a]pyridin-1-yl-naphthalen-1-yl-methanone
To a solution of 1-naphthoyl chloride (409 ml, 2.70 mmol, 2 eq) in 1,2-dichloroethane (10 ml) was added aluminum trichloride (415 mg, 3.11 mmol, 2.3 eq). The reaction mixture was stirred at room temperature for 10 min., then a solution of 3-propyl-imidazo[1,5-a]pyridine (216 mg, 1.35 mmol) in 1,2-dichloroethane (5 ml) was added. The reaction mixture was stirred at room temperature for 1 h. Then washed with saturated aqueous sodium bicarbonate and the organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica to yield the title compound (119 mg, 28%). 1H NMR (DMSO-d6) δ 8.59 (1H), 8.28 (1H), 8.10-8.01 (3H), 7.80 (1H), 7.61 (1H), 7.57 (1H), 7.43 (1H), 7.41 (1H), 7.12 (1H), 2.92 (2H), 1.67 (2H), 0.09 (3H); m/z (M+H)=315.17.

reactant | 1-naphthoyl chloride | 2.70 mmol, 409 ml, 2 eq | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | aluminum trichloride | 3.11 mmol, 415 mg, 2.3 eq | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 3-propyl-imidazo[1,5-a]pyridine | 1.35 mmol, 216 mg | C(CC)C1=NC=C2N1C=CC=C2 | C10H12N2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | 3-propyl-imidazo[1,5-a]pyridin-1-yl-naphthalen-1-yl-methanone | 119 mg, 28% | C(CC)C1=NC(=C2N1C=CC=C2)C(=O)C2=CC=CC1=CC=CC=C21 | C21H18N2O
